US05945380
7.53 g (0.03 mol) of 2-trifluoromethylphenylsulphonyl isocyanate are added to a solution of 7.38 g (0.03 mol) of [4-(2,6-dichloropyridin-4-yl)-thiazol-2-yl]-amine in 180 ml of acetonitrile at 75° C. in the course of 5 minutes, while stirring. The reaction mixture is stirred at 75° C. for a further 3 hours and then cooled to room temperature, and the solid which has precipitated out is filtered off with suction, washed twice with 10 ml of acetonitrile each time and dried at 45° C. under reduced pressure. 14 g (93.9% of theory) of N-[4-(2,6-dichloro-pyridin4-yl)-thiazol-2-yl]-N'-(2-trifluoromethyl-phenylsulphonyl)-urea are obtained in this manner in the form of a solid substance with a melting point of >280° C.

reactant | 2-trifluoromethylphenylsulphonyl isocyanate | 0.03 mol, 7.53 g | FC(C1=C(C=CC=C1)S(=O)(=O)N=C=O)(F)F | C8H4F3NO3S
reactant | [4-(2,6-dichloropyridin-4-yl)-thiazol-2-yl]-amine | 0.03 mol, 7.38 g | ClC1=NC(=CC(=C1)C=1N=C(SC1)N)Cl | C8H5Cl2N3S
solvent | acetonitrile | 180 ml | C(C)#N | C2H3N
product | N-[4-(2,6-dichloro-pyridin4-yl)-thiazol-2-yl]-N'-(2-trifluoromethyl-phenylsulphonyl)-urea | 14 g, 93.9% | ClC1=NC(=CC(=C1)C=1N=C(SC1)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)Cl | C16H9Cl2F3N4O3S2
